US03931151
5.1 ml of 30% hydrogen peroxide were added dropwise in 10 minutes to a solution of 4.25 g of 2-ethylthio-5-methyl-11-(β-dimethylaminoethyl) [5H] dibenzo (b,f) azepine hydrochloride in 42.5 ml of acetic acid heated to 65°C and the mixture was stirred at 65°C for 4 hours and then was cooled. The mixture was poured into 200 ml of ice and water and the solution was made alkaline by addition of sodium hydroxide. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over magnesium sulfate and distilled to dryness under reduced pressure. The residue was chromatographed over silica gel with a 95-5 mixture of chloroform-methanol as eluant which was distilled to obtain 2.85 g of 2-ethylsulfonyl-5-methyl-11-(β-dimethylaminoethyl) [5H] dibenzo (b,f) azepine.

reactant | hydrogen peroxide | 5.1 ml | OO | H2O2
reactant | 2-ethylthio-5-methyl-11-(β-dimethylaminoethyl) [5H] dibenzo (b,f) azepine hydrochloride | 4.25 g | Cl.C(C)SC1=CC2=C(N(C3=C(C=C2CCN(C)C)C=CC=C3)C)C=C1
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 42.5 ml | C(C)(=O)O | C2H4O2
product | 2-ethylsulfonyl-5-methyl-11-(β-dimethylaminoethyl) [5H] dibenzo (b,f) azepine | 2.85 g | C(C)S(=O)(=O)C1=CC2=C(N(C3=C(C=C2CCN(C)C)C=CC=C3)C)C=C1 | C21H26N2O2S
